US04788186
8-chloro-6-phenyl-1,2,4-triazolo[3,4-a]phthalazine
The compound of the title is prepared by following essentially the same procedure outlined in example 114 above but using 6-chloro-4-phenyl-1-hydrazinophthalazine instead of 4-phenyl-1-hydrazinophthalazine. M.p. 189°-90° C. (from ethanol).

reactant | 6-chloro-4-phenyl-1-hydrazinophthalazine | ClC=1C=C2C(=NN=C(C2=CC1)NN)C1=CC=CC=C1 | C14H11ClN4
reactant | ethanol | C(C)O | C2H6O
product | 8-chloro-6-phenyl-1,2,4-triazolo[3,4-a]phthalazine | ClC=1C=C2C(=NN3C(C2=CC1)=NN=C3)C3=CC=CC=C3 | C15H9ClN4
